US09303045B2
Step 4: 1-(1,1,1-Trifluoro-2-methylpropan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid
KOH (174 mg, 3.11 mmol) was added to a solution of 1-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (78.7 mg, 0.311 mmol) in 1:1:1 THF/MeOH/water (621 μl) at RT. After being stirred at 100° C. for 4 h, the reaction mixture was acidified (pH=2-3) by conc. HCl and the resulting suspension was extracted with EtOAc. The combined organic layers were concentrated to afford the title compound as a brown foam, which was used without further purification.

reactant | KOH | 3.11 mmol, 174 mg | [OH-].[K+]
reactant | 1-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 0.311 mmol, 78.7 mg | FC(C(C)(C)N1C=C(C=2C1=NC=CC2)C#N)(F)F | C12H10F3N3
reactant | HCl | Cl | ClH
reactant | THF MeOH water | 621 μl | C1CCOC1.CO.O
product | 1-(1,1,1-Trifluoro-2-methylpropan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | FC(C(C)(C)N1C=C(C=2C1=NC=CC2)C(=O)O)(F)F | C12H11F3N2O2
